US08217069B2
2,6-Dichloro-4-methoxynicotinic Acid
To a solution of diisopropylamine (1.83 mL) in tetrahydrofuran (40 mL) was added n-butyllithium (2.64 mol/L n-hexane solution, 4.52 mL) at −78° C., and the mixture was stirred at the same temperature for 5 minutes. To the reaction mixture was added a solution of 2,6-dichloro-4-methoxypyridine (1.93 g) in tetrahydrofuran (10 mL) in a dropwise manner, and the mixture was stirred at the same temperature for 30 minutes. To the reaction mixture was added dry ice (5 g), and the mixture was stirred at the same temperature for 30 minutes. To the reaction mixture were added a saturated aqueous ammonium chloride solution and 2 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate) to give the title compound (1.2 g).

reactant | diisopropylamine | 1.83 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.64 mol/L, 4.52 mL | C(CCC)[Li]
reactant | 2,6-dichloro-4-methoxypyridine | 1.93 g | ClC1=NC(=CC(=C1)OC)Cl | C6H5Cl2NO
reactant | dry ice | 5 g | C(=O)=O | CO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2,6-Dichloro-4-methoxynicotinic Acid | 1.2 g | ClC1=C(C(=O)O)C(=CC(=N1)Cl)OC | C7H5Cl2NO3
